US08193378B2
To a solution of 7-hydroxy-2H-chromene-3-carbaldehyde in DCM was added pyridine at 0° C. To the reaction liquid was added dropwise trifluoromethanesulfonic anhydride at 0° C. After stirring at room temperature for 1 hour, water was added thereto at 0° C. The mixture was extracted with EtOAc. The organic layer was washed with 1 M HCl, water, and brine in this order, dried over MgSO4, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:EtOAc=95:5 to 80:20) to obtain 3-formyl-2H-chromen-7-yl trifluoromethanesulfonate as a yellow oily substance.

reactant | 7-hydroxy-2H-chromene-3-carbaldehyde | OC1=CC=C2C=C(COC2=C1)C=O | C10H8O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-formyl-2H-chromen-7-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=C2C=C(COC2=C1)C=O)(F)F | C11H7F3O5S
